US06770646B2
c) Trimethylsilylmethyl 2-(3-methyl-1-oxobutyl)furan-3-carboxylate
Dimethylsulfoxide (125 μl) was dissolved in dichloromethane (10 ml) and cooled to −78° C. Oxalyl chloride (80 μl) was added dropwise and the mixture was stirred for 15 minutes. Trimethylsilylmethyl 2-(1-hydroxy-3-methylbutyl)furan-3-carboxylate (200 mg) in dichloromethane (10 ml) was added and the mixture was stirred for 20 minutes. Triethylamine (0.49 ml) was added. The mixture was stirred for 20 minutes, and then allowed to warm to ambient temperature. The mixture was poured onto water and then extracted thrice with ethyl acetate. The organic phases were combined, washed with brine, dried, filtered and evaporated to give the sub-title compound (170 mg).

reactant | Dimethylsulfoxide | 125 μl | CS(=O)C | C2H6OS
reactant | Oxalyl chloride | 80 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Trimethylsilylmethyl 2-(1-hydroxy-3-methylbutyl)furan-3-carboxylate | 200 mg | OC(CC(C)C)C=1OC=CC1C(=O)OC[Si](C)(C)C | C14H24O4Si
reactant | Triethylamine | 0.49 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Trimethylsilylmethyl 2-(3-methyl-1-oxobutyl)furan-3-carboxylate | 170 mg | CC(CC(=O)C=1OC=CC1C(=O)OC[Si](C)(C)C)C | C14H22O4Si
